US04888439
N-(2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoyl)piperidine
Starting materials: 2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoic acid and piperidine.

reactant | 2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C23H36O3
reactant | piperidine | N1CCCCC1 | C5H11N
product | N-(2,6,10,14-tetramethyl-18-oxo-2,6,10,14-nonadecatetraenoyl)piperidine | CC(C(=O)N1CCCCC1)=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C | C28H45NO2
